US06867299B2
29 mg (0.21 mmol) of benzoyl chloride were added to a solution of 100 mg (0.21 mmol) of N-[3-(aminomethyl)phenyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide trifluoroacetate, prepared as described in Example 3 above, and 46 mg (0.46 mmol) of triethylamine in a mixture of 2 ml of dimethylformamide and 5 ml of dichloromethane, and stirred at room temperature for 18 hours. The solution was washed with 2M hydrochloric acid and saturated sodium bicarbonate then dried over magnesium sulphate and evaporated to dryness. The residue was chromatographed on silica gel using ethyl acetate/petrol (2:1) for the elution. After trituration with diethyl ether there was obtained 45 mg of N-[3-(benzamidomethyl)phenyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide as a white solid. MS: m/e 471.0 [M+H]+.

reactant | benzoyl chloride | 0.21 mmol, 29 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-[3-(aminomethyl)phenyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide trifluoroacetate | 0.21 mmol, 100 mg | FC(C(=O)O)(F)F.NCC=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O
reactant | triethylamine | 0.46 mmol, 46 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[3-(benzamidomethyl)phenyl]-N′-[3-methoxy-4-(5-oxazolyl)phenyl]oxalamide | 45 mg | C(C1=CC=CC=C1)(=O)NCC=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C26H22N4O5
